MARV P3 - lumped enclosure thermal sensitivity, NOT a measured thermal model
* Voltage = degrees C, current = watts, R = K/W, C = J/K.
* RENC is whole-board-to-environment resistance, not datasheet IC thetaJA.
* PLOSS is TPS62913 buck + TPS7A20 LDO conversion heat only; PLOAD is electronics load heat.
* Board is one isothermal node. Local IC gradients require separate validation.
.param AMBIENT=60 PLOAD=0.99 PLOSS=0.103192 RENC=10 CBOARD=10
Vambient ambient 0 {AMBIENT}
Rpath board ambient {RENC}
Cboard board ambient {CBOARD} IC=0
Iheat 0 board PWL(0 0 1 {PLOAD+PLOSS})
.tran 1 3600 uic
.meas tran board_10min FIND v(board) AT=600
.meas tran board_60min FIND v(board) AT=3600
.end
